* source ASTABLE
V_V1         0 N01492 15V
V_V2         N02770 0 15V
R_R4         N01272 N01320  12k TC=0,0 
R_R5         0 N01272  10k TC=0,0 
R_R6         N01267 N01320  5k TC=0,0 
C_C1         0 N01267  0.1u  TC=0,0 
X_U1         N01272 N01267 N02770 N01492 N01320 uA741
